US05071855
Grams 3.3 of 2,3-diaminopyridine and 5.4 g of N-methylisonipecotic acid hydrocloride are heated at 190° C. for 24 hours. The reaction mixture is cooled and diluted with a small amount of water then made alkaline to pH 10 by addition of NaOH then extracted several times with methylene chloride. The organic extracts are collected together and evaporated to dryness. The residue, crystallized from acetonitrile, gives 2 g (31% of the theoretical value) 2-(1-methylpiperidin-4-yl)-3H-imidazo [4,5-b] pyridine melting at 224°-226° C. To a solution constituted by 3 g 2-(1-methylpiperidin-4-yl)-3H-imidazo[4,5-b] pyridine in 10 ml N,N-dimethylformamide 0.6 g 60% sodium hydride are added in portions and subsequently, dropwise, a solution constituted by 1.7 ml p-fluorobenzylchloride in 2 ml N,N-dimethylformamide. The reaction mixture is heated to 100° C. for 2 hours, then cooled and 30 ml water are added thereto. Extraction with diethylether is repeated several times, the ethereal extracts are collected together and evaporated to dryness. The residue product, consisting of 1.1 g 3-(4-fluorobenzyl)-2-(1-methylpiperidin-4-yl)-3H-imidazo [4,5-b] pyridine is isolated as fumarate melting at 242°-245° C. (ethyl alcohol).

reactant | 2,3-diaminopyridine | NC1=NC=CC=C1N | C5H7N3
reactant | N-methylisonipecotic acid hydrocloride | 5.4 g | Cl.CN1CCC(C(=O)O)CC1
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | 2-(1-methylpiperidin-4-yl)-3H-imidazo [4,5-b] pyridine | CN1CCC(CC1)C1=NC=2C(=NC=CC2)N1 | C12H16N4
